* tt_analog_ring, code 255
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt_mismatch
.option temp=27
.option seed=5051
.include /work/analog/out/verify/tt_analog_ring.pex.mm.spice
Vdd VPWR 0 1.2
Vc0 code[0] 0 1.2
Vc1 code[1] 0 1.2
Vc2 code[2] 0 1.2
Vc3 code[3] 0 1.2
Vc4 code[4] 0 1.2
Vc5 code[5] 0 1.2
Vc6 code[6] 0 1.2
Vc7 code[7] 0 1.2
Ven enable 0 pulse(0 1.2 1.205e-08 0.1n)
Xdut code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] enable clk_out VPWR 0 tt_analog_ring
Cload clk_out 0 15f
.control
op
let idd_dis = -i(Vdd)
echo "idd_dis=$&idd_dis vbp=$&v(xdut.vbp) vbn=$&v(xdut.vbn) clk_dis=$&v(clk_out)"
tran 4.016e-11 2.41e-07
let tm = 1.446e-07
let ten = 1.205e-08
meas tran vhold_min min v(clk_out) from=0 to=$&ten
meas tran tfirst when v(clk_out)=1.2/2 fall=1
meas tran t1 when v(clk_out)=1.2/2 rise=1 from=$&tm
meas tran t2 when v(clk_out)=1.2/2 rise=2 from=$&tm
meas tran t3 when v(clk_out)=1.2/2 rise=3 from=$&tm
meas tran t4 when v(clk_out)=1.2/2 rise=4 from=$&tm
meas tran t5 when v(clk_out)=1.2/2 rise=5 from=$&tm
meas tran t6 when v(clk_out)=1.2/2 rise=6 from=$&tm
meas tran t7 when v(clk_out)=1.2/2 rise=7 from=$&tm
meas tran t8 when v(clk_out)=1.2/2 rise=8 from=$&tm
meas tran t9 when v(clk_out)=1.2/2 rise=9 from=$&tm
meas tran t10 when v(clk_out)=1.2/2 rise=10 from=$&tm
meas tran t11 when v(clk_out)=1.2/2 rise=11 from=$&tm
meas tran t12 when v(clk_out)=1.2/2 rise=12 from=$&tm
meas tran idd_run avg i(Vdd) from=$&tm
meas tran vmax max v(clk_out) from=$&tm
meas tran vmin min v(clk_out) from=$&tm

.endc
.end
